US07217723B2
5-Acetyl-2-methylamino-thiophene-3-sulfonic acid [2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-amide
(5-Acetyl-3-{[2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-sulfamoyl}-thiophene-2-yl)-methyl-carbamic acid t-butyl ester (600 mg) was treated with trifluoroacetic acid, and the title compound (438 mg) was obtained as a colorless solid, in the same way as Preparation Example 98.

reactant | (5-Acetyl-3-{[2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-sulfamoyl}-thiophene-2-yl)-methyl-carbamic acid t-butyl ester | 600 mg | C(C)(C)(C)OC(N(C)C=1SC(=CC1S(N(C)CC(O)C1=CC=C(C=C1)F)(=O)=O)C(C)=O)=O | C21H27FN2O6S2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 5-Acetyl-2-methylamino-thiophene-3-sulfonic acid [2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-amide | 438 mg | FC1=CC=C(C=C1)C(CN(S(=O)(=O)C1=C(SC(=C1)C(C)=O)NC)C)O | C16H19FN2O4S2
